US07138432B1
To a solution of 3.61 g (7.67 mmol) of [(4-but-3-enyloxy-benzensulfonyl)-(4-[1,2,4] triazol-1-yl-benzyl)-amino]-acetic acid ethyl ester in 38 ml of THF and 38 ml of MeOH, 0.966 g (23 mmol) of lithum hydroxide monohydrate and 4 ml of H 20 are added at 0–5° C. After being stirred for 3.5 h, the reaction mixture is acidified with 2 N aqueous hydrochloride at 0–5° C. and concentrated under reduced pressure to give [(4-but-3-enyloxy-benzensulfonyl)-(4-[1,2,4]triazol-1-yl-benzyl)-amino]-acetic acid as a colorless powder. To a solution of 3.76 g of the above prepared acid and 1.87 g (13.81 mmol) of 1-hydroxybenztriazole (HOBT) in 35 ml of DMF, 1.61 g (15.34 mmol) of O-(1-methyoxy-1-methyl-ethyl)-hydroxylamine and 1.91 g (12.275 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide are added successively at 0° C. After being stirred for 3.5 h at r.t., the reaction mixture is poured into ice water and the mixture is extracted with AcOEt. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluent: n-Hexane: AcOEt=1:3˜1:4) to give the title compound. 1H-NMR (400 MHz, CDCl3): 1.34 (s, 6H), 2.55–2.65 (m, 2H), 3.29 (s, 3H), 3.73 (s, 2H), 4.09 (t, J=6.60 Hz, 2H), 4.44 (s, 2H), 5.10–5.25 (m, 2H), 5.85–5.95 (m, 1H), 7.01 (d, 2H, J=8.52 Hz), 7.44 (d, 2H, J=8.0 Hz), 7.64 (d, 2H, J=8.52 Hz), 7.81 (d, 2H, J=8.0 Hz), 8.10 (s, 1H), 8.54 (s, 1H), 8.62 (brs, 1H).

reactant | [(4-but-3-enyloxy-benzensulfonyl)-(4-[1,2,4] triazol-1-yl-benzyl)-amino]-acetic acid ethyl ester | 7.67 mmol, 3.61 g | C(C)OC(CN(CC1=CC=C(C=C1)N1N=CN=C1)S(=O)(=O)C1=CC=C(C=C1)OCCC=C)=O | C23H26N4O5S
reactant | lithum hydroxide monohydrate | 23 mmol, 0.966 g | O.[OH-].[Li+]
reactant | hydrochloride | 2 N | Cl | ClH
solvent | THF | 38 ml | C1CCOC1 | C4H8O
solvent | MeOH | 38 ml | CO | CH4O
product | [(4-but-3-enyloxy-benzensulfonyl)-(4-[1,2,4]triazol-1-yl-benzyl)-amino]-acetic acid | C(CC=C)OC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)N1N=CN=C1)CC(=O)O | C21H22N4O5S
